US08110573B2
To a mixture of 7-morpholin-4-ylmethyl-2,4-dihydro-1,2,4,5a,10-pentaaza-cyclopenta[a]fluoren-5-one (10.7 g, 32.9 mmol) in NMP (65 mL) was added cyclopropylamine (6.9 mL, 99 mmol). The mixture was heated at 100° C. for 5 h. LC/MS analysis indicated ˜75% conversion to product, therefore a further portion of cyclopropylamine (2.3 mL, 33 mmol) was added, the mixture heated at 100° C. for 4 h and then cooled to ambient. The mixture was diluted with water (100 mL) and extracted with EtOAc (100 mL). The organic portion was washed with sat. aq. NH4Cl (2×50 mL) and brine (50 mL) and then the aqueous portions re-extracted with EtOAc (3×100 mL). The combined organic portions were dried over MgSO4 and reduced in vacuo to give 1-cyclopropyl-3-[3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-urea as an orange glassy solid (9.10 g).

reactant | 7-morpholin-4-ylmethyl-2,4-dihydro-1,2,4,5a,10-pentaaza-cyclopenta[a]fluoren-5-one | 32.9 mmol, 10.7 g | N1(CCOCC1)CC=1C=C2N3C(NC=4C(C3=NC2=CC1)=NNC4)=O | C16H16N6O2
reactant | cyclopropylamine | 99 mmol, 6.9 mL | C1(CC1)N | C3H7N
reactant | cyclopropylamine | 33 mmol, 2.3 mL | C1(CC1)N | C3H7N
solvent | NMP | 65 mL | CN1CCCC1=O | C5H9NO
solvent | water | 100 mL | O | H2O
product | 1-cyclopropyl-3-[3-(5-morpholin-4-ylmethyl-1H-benzoimidazol-2-yl)-1H-pyrazol-4-yl]-urea | 9.10 g | C1(CC1)NC(=O)NC=1C(=NNC1)C1=NC2=C(N1)C=CC(=C2)CN2CCOCC2 | C19H23N7O2
